US04542219
2-Tridecyloxyethyl 2-trimethylammonioethyl phosphate
In benzene were dissolved 3.8 g of 2-n-tridecyloxyethanol and 5.7 g of 2-bromoethyl phosphorodichloridate, and following dropwise addition of 1.85 g of pyridine under ice-cooling, the mixture was stirred at room temperature. The reaction mixture was treated by the procedure of Production Example 1 including hydrolysis, quaternization, dehalogenation, purification by silica gel column chromatography and recrystallization from chloroform-acetone to give 2.2 g (34%) of the desired product. It was hygroscopic.

reactant | 2-n-tridecyloxyethanol | 3.8 g | C(CCCCCCCCCCCC)OCCO | C15H32O2
reactant | 2-bromoethyl phosphorodichloridate | 5.7 g | P(OCCBr)(=O)(Cl)Cl | C2H4BrCl2O2P
reactant | pyridine | 1.85 g | N1=CC=CC=C1 | C5H5N
reactant | chloroform acetone | C(Cl)(Cl)Cl.CC(=O)C
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-Tridecyloxyethyl 2-trimethylammonioethyl phosphate | 2.2 g, 34% | P(=O)(OCCOCCCCCCCCCCCCC)(OCC[N+](C)(C)C)[O-] | C20H44NO5P
